US04621142
(1) 4-(Aminosulfonyl)-N-[3-[3-(1-piperidinylcarbonyl)phenoxy]propyl]-3-thiophene-carboxamide, hydrate
To a solution of 0.26 g. (0.001 mole) of 1-[[3-(3-aminopropoxy)phenyl]carbonyl]piperidine in 30 ml. of dry tetrahydrofuran is added 0.23 g. (0.001 mole) of 4-(aminosulfonyl)-3-thiophenecarbonyl chloride. The mixture is allowed to stand at room temperature for 15 minutes. The tetrahydrofuran is removed in a rotary evaporator and the residue is dissolved in 50 ml. of chloroform. The chloroform solution is extracted with 50 ml. of 10% aqueous sodium hydroxide solution followed by 50 ml. of 10% aqueous hydrochloric acid. The chloroform layer is washed with water, is dried over magnesium sulfate and is filtered. The filtrate is evaporated in a rotary evaporator to give 0.15 g. of an amorphous product, m.p. 70°-80° C.; mass spectrum CI m/e 452 MH+.

reactant | 1-[[3-(3-aminopropoxy)phenyl]carbonyl]piperidine | 0.001 mole | NCCCOC=1C=C(C=CC1)C(=O)N1CCCCC1 | C15H22N2O2
reactant | 4-(aminosulfonyl)-3-thiophenecarbonyl chloride | 0.001 mole | NS(=O)(=O)C=1C(=CSC1)C(=O)Cl | C5H4ClNO3S2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(Aminosulfonyl)-N-[3-[3-(1-piperidinylcarbonyl)phenoxy]propyl]-3-thiophene-carboxamide, hydrate | O.NS(=O)(=O)C=1C(=CSC1)C(=O)NCCCOC1=CC(=CC=C1)C(=O)N1CCCCC1 | InChI=1S/C20H25N3O5S2.H2O/c21-30(26,27)18-14-29-13-17(18)19(24)22-8-5-11-28-16-7-4-6-15(12-16)20(25)23-9-2-1-3-10-23;/h4,6-7,12-14H,1-3,5,8-11H2,(H,22,24)(H2,21,26,27);1H2
